US07754742B2
(4-Hydroxymethyl-benzyl)-carbamic acid tert-butyl ester
Stir a 1.0M solution of lithium aluminum hydride in tetrahydrofuran (8 L) in a 4-neck 22-L round bottom flask, heat to 40° C., and treat with 4-cyanobenzoic acid (350 g, 2.36 mol), neat, in 25 g portions, at such a rate as to keep the temperature below 60° C. Stir the mixture overnight at room temperature, cool to ˜5° C. with an ice bath, treat with water (304 mL), 15% aqueous sodium hydroxide solution (304 mL), and water (912 mL) at such a rate as to keep the temperature below 25° C. during all additions. Remove the ice bath and stir for ˜1 hr, then filter, washing the cake with tetrahydrofuran (2 L). Dry the filtrate with magnesium sulfate, filter, and treat the filtrate with di-tert-butyl dicarbonate (576 g, 2.59 mol). Stir overnight at room temperature, then dilute with ethyl ether (7.5 L), wash with brine (2×2 L), dry with magnesium sulfate, filter, and evaporate the filtrate to an off-white solid. Slurry the solid in ethyl acetate (1 L) and hexanes (8 L) and filter to afford the title compound (457 g, 82% yield) as an off-white solid. 1H NMR (CDCl3) δ 7.30 (ABq, J=12.0, 8.0 Hz, 4H), 4.8 (bs, 1H), 4.68 (bs, 2H), 4.31 (d, J=4 Hz, 2H), 1.7 (bs, 1H), 1.46 (s, 9H).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-cyanobenzoic acid | 2.36 mol, 350 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | sodium hydroxide | 304 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 2.59 mol, 576 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 8 L | O1CCCC1 | C4H8O
solvent | ethyl ether | 7.5 L | C(C)OCC | C4H10O
solvent | water | 912 mL | O | H2O
solvent | water | 304 mL | O | H2O
product | (4-Hydroxymethyl-benzyl)-carbamic acid tert-butyl ester | 457 g, 82% yield | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CO)=O | C13H19NO3
